US04002624
Preparation of 2-Benzyl-3-(benzylthio)-1,2,5,6-tetrahydro-1-methyl-1,2,4-triazine
Seven grams of tetrahydro-1-methyl-2-(phenylmethyl)-1,2,4-triazine-3(2H)-thione was dissolved in 30 ml. of dimethyl formamide. Three grams of finely ground potassium carbonate (K2CO3) was added to the solution. Benzyl bromide (5.43 grams) was added in several additions at room temperature. The mixture was heated to 60°-65° C and held at that temperature for 2 hours. The mixture was chilled and diluted with additional K2CO3 (10 g.) and water (200 ml). The product was extracted with trichloromethane and washed with brine. The mixture was dried with magnesium sulfate. The mixture was diluted with ethyl ether and the insoluble particles filtered off. The filtrate was heated to 35° C to concentrate the solution. Upon chilling 2-benzyl-3-(benzylthio)-1,2,5,6-tetrahydro-1-methyl-1,2,4-triazine crystallized from the liquid reaction mass. This product was recrystallized from isopropanol-hexane. The product was found to have a melting point at 45° C. The structure was confirmed by IR, NMR and elemental analysis.

reactant | tetrahydro-1-methyl-2-(phenylmethyl)-1,2,4-triazine-3(2H)-thione | Seven grams | CN1N(C(NCC1)=S)CC1=CC=CC=C1 | C11H15N3S
reactant | dimethyl formamide | CN(C=O)C | C3H7NO
reactant | Benzyl bromide | 5.43 grams | C(C1=CC=CC=C1)Br | C7H7Br
solvent | K2CO3 | 10 g | C(=O)([O-])[O-].[K+].[K+]
solvent | water | 200 ml | O | H2O
solvent | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 2-Benzyl-3-(benzylthio)-1,2,5,6-tetrahydro-1-methyl-1,2,4-triazine | C(C1=CC=CC=C1)N1N(CCN=C1SCC1=CC=CC=C1)C | C18H21N3S
